US05728686
c) Diethyl 5-(tetrahydropyran-2-yloxy)pentylphosphonate
A solution of 66.9 g (0.298 mol) of diethyl 5-hydroxypentylphosphonate, 32.6 g (0.38 mol) of 3,4-dihydropyran and 1 g (0.004 mol) of pyridinium toluene-4-sulfonate in 800 ml of dichloromethane was heated under reflux for 16 hours. The solution was washed with water and saturated sodium hydrogen carbonate solution, dried over sodium sulfate and distilled in a bulb tube.

reactant | diethyl 5-hydroxypentylphosphonate | 0.298 mol, 66.9 g | OCCCCCP(OCC)(OCC)=O | C9H21O4P
reactant | 3,4-dihydropyran | 0.38 mol, 32.6 g | O1CCCC=C1 | C5H8O
reactant | pyridinium toluene-4-sulfonate | 0.004 mol, 1 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | Diethyl 5-(tetrahydropyran-2-yloxy)pentylphosphonate | O1C(CCCC1)OCCCCCP(OCC)(OCC)=O | C14H29O5P
